US06211234B1
tert-Butyl (R)-4-[2-(5-methoxycarbonylpyrazol-3-yl)-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate (2 g) is dissolved in trifluoroacetic acid (10 mL) and allowed to stand at room temperature for 2 minutes. The solution is quenched with saturated aqueous sodium hydrogen carbonate solution (100 mL) and the product extracted into ethyl acetate (100 mL). This solution is washed with water, dried, and evaporated. The residue is purified by flash chromatography on silica eluting initially with a mixture of ethyl acetate and cyclohexane (3:2 v/v) to remove trace high running impurities, and then eluting with a mixture of methanol and dichloromethane (1:4 v/v). Fractions heterogeneous in the required product are combined and evaporated. The residue is recrystallised from a mixture ethyl acetate and cyclohexane to give (R)-4-[2-(5-methoxycarbonylpyrazol-3-yl)-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid (0.4 g) as a white solid, m.p. 155-156° C. [Elemental analysis:- C,66.90; H,5.49; N,8.11%. Calculated:- C,67.00; H,5.43; N,8.43%].

reactant | tert-Butyl (R)-4-[2-(5-methoxycarbonylpyrazol-3-yl)-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoate | 2 g | COC(=O)C1=CC(=NN1)C1=C(O[C@H](CCC(=O)OC(C)(C)C)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=CC1 | C32H35N3O6
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-4-[2-(5-methoxycarbonylpyrazol-3-yl)-5-(3-pyridylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid | 0.4 g | COC(=O)C1=CC(=NN1)C1=C(O[C@H](CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NC=CC1 | C28H27N3O6
